US08383853B2
Methyl 2,6-diethyl-4-methylphenylacetate
1 ml of concentrated sulfuric acid is added to 18.0 g (87.3 mmol) of 2,6-diethyl-4-methylphenylacetic acid and 300 ml of absolute methanol, and the mixture is heated at reflux for 4 h. After cooling, the mixture is extracted with ethyl acetate, the extracts are washed with water in sodium carbonate solution and dried (magnesium sulfate) and the solvent is distilled off. This gives 18.37 g of (95%) of the desired product as a colorless oil.

reactant | sulfuric acid | 1 ml | S(O)(O)(=O)=O | H2O4S
reactant | 2,6-diethyl-4-methylphenylacetic acid | 87.3 mmol, 18.0 g | C(C)C1=C(C(=CC(=C1)C)CC)CC(=O)O | C13H18O2
reactant | methanol | 300 ml | CO | CH4O
product | Methyl 2,6-diethyl-4-methylphenylacetate | C(C)C1=C(C(=CC(=C1)C)CC)CC(=O)OC | C14H20O2
